US05439928
1-benzyl-5-[1,4-bis(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole is prepared analogously to Example 7 a) starting from 3-(4-fluorophenyl)-1-bromopropane and 1-benzyl-5-[1-(4-fluorophenyl)-1-oxomethyl]-1H-imidazole. The product is purified by flash chromatography.

reactant | 3-(4-fluorophenyl)-1-bromopropane | FC1=CC=C(C=C1)CCCBr | C9H10BrF
reactant | 1-benzyl-5-[1-(4-fluorophenyl)-1-oxomethyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(=O)C1=CC=C(C=C1)F | C17H13FN2O
product | 1-benzyl-5-[1,4-bis(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=C(C=C1)F)(O)C1=CC=C(C=C1)F | C26H24F2N2O
